US05166204
5.0 ml of methacrolein was dissolved in 100 ml of benzene. Thereto were added 31.5 g of 2-nitro-benzyltriphenylphosphonium bromide and 100 ml of a 5 N aqueous sodium hydroxide solution. The mixture was stirred at room temperature for 5 hours. The organic layer was separated and washed with an aqueous saturated sodium chloride solution and dried over anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure. The residue was purified by column chromatography (eluant: toluene) to obtain 2.7 g of 1-(3-methyl-1,3-butadienyl)-2-nitrobenzene (containing about 2.2 g of o-nitrotoluene) as a light yellow oily material.

reactant | methacrolein | 5.0 ml | O=CC(C)=C | C4H6O
reactant | 2-nitro-benzyltriphenylphosphonium bromide | 31.5 g | [Br-].[N+](=O)([O-])C1=C(C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=CC=C1
reactant | sodium hydroxide | 5 N | [OH-].[Na+]
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | 1-(3-methyl-1,3-butadienyl)-2-nitrobenzene | 2.7 g | CC(C=CC1=C(C=CC=C1)[N+](=O)[O-])=C | C11H11NO2
